US07300936B2
4-{[N-((1R)-1-Carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (EXAMPLE 92):
To a solution of (2R)-2-(4-chlorobenzenesulfonylamino)-4-methylpentanoic acid amide (4.2 grams, 14 mmol) in DMF (50 mL) was added cesium carbonate (13.6 grams, 417 mmol). To this reaction was added 4-(toluene-4-sulfonyloxymethyl)-piperidine 1-carboxylic acid tert-butyl ester (ref.: Gilissen, C.; Bormans, G.; De Groot, T.; Verbruggen, A. J. Labeled Cmpd. Radiopharm. 1999, 42, 1289; 10.4 g, 282 mmol). The reaction was stirred at 70° C. for 18 h. The reaction was then quenched with sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was collected, washed with brine, dried over MgSO4, and concentrated to a clear oil. The oil was then purified on a Biotage 40S (eluted with 30% EtOAc in hexanes) to afford a white solid (3.0 g, 44%). MS(ESI), (M+H)+502.1; 1H NMR (DMSO-d6, 500 MHz) δ7.86 (dd, 2H, J=2.0, 6.8), 7.65 (dd, 2H, J=2.0, 6.8) 7.37 (br s, 1H), 7.07 (br s, 1H), 4.19 (t, 1H, J=7.6), 3.92 (br s, 2H), 3.35 (dd, 1H, J=15, 6.8), 3.05 (dd, 1H, J=15, 8.1), 1.85 (br s, 1H), 1.50-1.70 (m, 4H), 1.38 (s, 9H), 1.10-1.20 (m, 1H), 0.80-1.00 (m, 3H), 0.82 (d, 6H, J=7.6).

reactant | (2R)-2-(4-chlorobenzenesulfonylamino)-4-methylpentanoic acid amide | 14 mmol, 4.2 grams | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CC(C)C | C12H17ClN2O3S
reactant | cesium carbonate | 417 mmol, 13.6 grams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(toluene-4-sulfonyloxymethyl)-piperidine 1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-{[N-((1R)-1-Carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 3.0 g, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)[C@H](CC(C)C)C(N)=O | C23H36ClN3O5S
